US05130313
A solution of 6H-dibenzo[c,e]-1,2-thiazine 5,5-dioxide (2 g) in dry N,N-dimethylformamide (15 cc) is added dropwise to a suspension of sodium hydride (0.27 g, 80% suspension in oil) in N,N-dimethylformamide (5 cc). After 30 minutes' stirring, a solution of 1-(3-chloropropyl)-4-(4-fluorophenyl)piperazine (2.2 g) in N,N-dimethylformamide (15 cc) is added. The reaction mixture is heated to 100° C. for 1 hour and 15 minutes and is then cooled and poured into a mixture of water (200 cc) and ethyl acetate (180 cc). The organic phase is washed with water (3×80 cc) is dried over magnesium sulphate and is concentrated to dryness under reduced pressure (2.7 kPa). The residue is recrystallized from acetonitrile (60 cc); the crystals obtained are filtered off, washed with acetonitrile (5 cc) and dried. 6-[3-(4-(4-Fluorophenyl)-1-piperazinyl)propyl]-6H-dibenzo[c,e]-1,2-thiazine 5,5-dioxide (2.8 g) is obtained, melting at 163° C.

reactant | 6H-dibenzo[c,e]-1,2-thiazine 5,5-dioxide | 2 g | C1=CC=CC2=C1C1=C(NS2(=O)=O)C=CC=C1 | C12H9NO2S
reactant | sodium hydride | 0.27 g | [H-].[Na+]
reactant | 1-(3-chloropropyl)-4-(4-fluorophenyl)piperazine | 2.2 g | ClCCCN1CCN(CC1)C1=CC=C(C=C1)F | C13H18ClFN2
reactant | water | 200 cc | O | H2O
solvent | N,N-dimethylformamide | 15 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 5 cc | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 cc | CN(C=O)C | C3H7NO
solvent | ethyl acetate | 180 cc | C(C)(=O)OCC | C4H8O2
product | 6-[3-(4-(4-Fluorophenyl)-1-piperazinyl)propyl]-6H-dibenzo[c,e]-1,2-thiazine 5,5-dioxide | 2.8 g | FC1=CC=C(C=C1)N1CCN(CC1)CCCN1S(C2=C(C3=C1C=CC=C3)C=CC=C2)(=O)=O | C25H26FN3O2S
